US07807709B2
(3R,4R)-3-Aminomethyl-4-({[4-ethyl-3-(3-methoxy-propoxy)-benzoyl]-isopropyl-amino}-methyl)-pyrrolidine-1-carboxylic acid tert-butyl ester:
According to the procedure described for Example 130/reaction step C, by hydrogenation of (3S,4R)-3-azidomethyl-4-({[4-ethyl-3-(3-methoxy-propoxy)-benzoyl]-isopropyl-amino}-methyl)-pyrrolidine-1-carboxylic acid tert-butyl ester (3.95 g, 7.48 mmol), dissolved in absolute EtOH (100 mL), in the presence of Pd/C 10% (0.8 g; Engelhard 4505) at room temperature under atmospheric pressure to give, after filtration and drying in vacuo, the title compound as colorless oil. MS: 492.2 [M+H]+. tR (HPLC, Nucleosil C18HD column, 20-100% CH3CN/H2O/6 min, 100% CH3CN/2 min, CH3CN and H2O containing 0.1% TFA, flow: 1 mL/min): 4.62 min.

reactant | (3S,4R)-3-azidomethyl-4-({[4-ethyl-3-(3-methoxy-propoxy)-benzoyl]-isopropyl-amino}-methyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 7.48 mmol, 3.95 g | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](C1)CN(C(C)C)C(C1=CC(=C(C=C1)CC)OCCCOC)=O)CN=[N+]=[N-] | C27H43N5O5
solvent | EtOH | 100 mL | CCO | C2H6O
catalyst | Pd/C | 0.8 g | [Pd] | Pd
product | (3R,4R)-3-Aminomethyl-4-({[4-ethyl-3-(3-methoxy-propoxy)-benzoyl]-isopropyl-amino}-methyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](C1)CN(C(C)C)C(C1=CC(=C(C=C1)CC)OCCCOC)=O)CN | C27H45N3O5
